US04762844
16.5 g of potassium carbonate are added to a solution of 37.7 g of ethyl 2-(2-chloro-3,5-difluoro-4-methylbenzoyl)-3-cyclopropylamino-acrylate in 100 ml of anhydrous dimethylformamide. The reaction mixture is then stirred under reflux for 2 hours and poured hot onto ice. The precipitate is filtered off with suction, washed thoroughly with water and dried in vacuo over calcium chloride at 100° C. 30.4 g of ethyl 1-cyclopropyl-6,8-difluoro-7-methyl-1,4-dihydro-4-oxo-3-quinolinecarboxylate of melting point 177°-179° C. are obtained.

reactant | potassium carbonate | 16.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-(2-chloro-3,5-difluoro-4-methylbenzoyl)-3-cyclopropylamino-acrylate | 37.7 g | ClC1=C(C(=O)C(C(=O)OCC)=CNC2CC2)C=C(C(=C1F)C)F | C16H16ClF2NO3
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 1-cyclopropyl-6,8-difluoro-7-methyl-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 30.4 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)C)F)=O)C(=O)OCC | C16H15F2NO3
